US07576099B2
Preparation of (E)-4-(3,3-dimethylbut-1-enyl)benzoic acid
To a cooled (0° C.) and well stirred suspension of 4-carboxy benzaldehyde (2.0 g, 13.32 mmol) in anhydrous THF (90 mL) is added 33.3 mmol of neopentyl magnesium chloride in hexane during 20 minutes and the mixture is stirred at the same temperature for an additional two hours before being quenched with satyrated ammonium chloride solution. Most of the THF is evaporated and the aqueous mixture is treated with conc. HCl (50 mL) and the mixture is heated to reflux for 2 hours. The mixture is then cooled to ambient temperature and extracted with methylene chloride (2×100 mL), the organic layer is dried over sodium sulfate and concentrated to obtain the desired compound.

reactant | 4-carboxy benzaldehyde | 13.32 mmol, 2.0 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | neopentyl magnesium chloride | 33.3 mmol | C(C(C)(C)C)[Mg]Cl
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (E)-4-(3,3-dimethylbut-1-enyl)benzoic acid | CC(/C=C/C1=CC=C(C(=O)O)C=C1)(C)C | C13H16O2
